US05821243
(b) Preparation of 2-chloro-4-(3-acetyl-5-oxo-2-pyrazolin-l-yl)benzoic acid
To a suspension of 1.9 gm. (5.8 mmoles) of 2-chloro-4-[N'-(2-ethoxycarbonyl-1-acetylethylidene)hydrazino]benzoic acid in 20 ml of ethanol was added at room temperature 6 ml. of aqueous 1M sodium carbonate. The mixture was left at room temperature overnight. The resulting mixture was acidifed to pH 3 with 6 M hydrochloric acid and the resulting solid collected by filtration and dried. The 2-chloro-4-(3-acetyl-5-oxo-2-pyrazolin-1-yl)benzoic acid had a melting point of>2500C.

reactant | 2-chloro-4-[N'-(2-ethoxycarbonyl-1-acetylethylidene)hydrazino]benzoic acid | 5.8 mmoles | ClC1=C(C(=O)O)C=CC(=C1)NN=C(CC(=O)OCC)C(C)=O | C14H15ClN2O5
reactant | sodium carbonate | 1M | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 6 M | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-chloro-4-(3-acetyl-5-oxo-2-pyrazolin-l-yl)benzoic acid | ClC1=C(C(=O)O)C=CC(=C1)N1N=C(CC1=O)C(C)=O | C12H9ClN2O4
